2140-10-08 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR RECEIVED - At [**2140-10-7**] 04:29 PM
 ARTERIAL LINE - START [**2140-10-7**] 05:25 PM
   - Hypertensive to 200s on admission, 10IV hydral, down to 150s
   - standing cough suppressant with codeine for coughing
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2140-10-7**] 07:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-8**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 57 (57 - 65) bpm
   BP: 130/58(81) {120/52(72) - 198/74(118)} mmHg
   RR: 14 (14 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    418 mL
                                                                    342 mL
   PO:
             TF:
   IVF:
                                                                    418 mL
                                                                    342 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    418 mL
                                                                    342 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.54/39/182/32/10
   Ve: 8.3 L/min
   PaO2 / FiO2: 455
   Physical Examination
   General: sedated
   HEENT: PERRL
   CV: RRR nls1s2
   Lungs: crackles at bases
   Abd: soft nt/nd
   Ext: no edema, pedal pulses palpable
   Labs / Radiology
   258 K/uL
   8.4 g/dL
   33 mg/dL
   6.1 mg/dL
   32 mEq/L
   4.0 mEq/L
   32 mg/dL
   100 mEq/L
   141 mEq/L
   25.8 %
   6.4 K/uL
        [image002.jpg]
                            [**2140-10-7**]  03:12 PM
                            [**2140-10-7**]  08:35 PM
                            [**2140-10-7**]  10:21 PM
                            [**2140-10-8**]  04:42 AM
   WBC
   6.4
   Hct
   26
   26
   25.8
   Plt
   258
   Cr
   6.1
   TCO2
   32
   31
   34
   Glucose
   97
   33
   Other labs: PT / PTT / INR:15.0/31.6/1.3, Lactic Acid:0.8 mmol/L,
   Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Fluid analysis / Other labs: TSH:1.5
   RheuFac: 31
   IgG: 1470
   IgA: 221
   IgM: 31
   C3: 102
   C4: 35
   tTG-IgA: Pnd
   Microbiology: [**10-7**] BAL:
   Gram stain
   2+ POLYMORPHONUCLEAR LEUKOCYTES.
   2+ GRAM POSITIVE COCCI.                                  IN PAIRS AND
   CHAINS.
   Assessment and Plan
   Mr. [**Known lastname **] is a 48 y/o M with DMI, ESRD who presents with bleeding
   during bronch done for persistent hemoptysis and worsening diffuse
   ground glass infiltrates.
   Transient Massive Hemoptysis During Bronch: likely source of bleeding
   was identified during flex bronch, IP thinks it may be a dulefoys
   ulcer, although these are usually seen in GI tract.   Of note patient
   had DES 5 months prior and is on ASa/Plavix. etiologies of the bleed
   include AVM, clot from previous bronch in setting of anticoagulation
   although doesnt appear same lobe, vasculitis, CA (although not
   visualized on CT) possibly carcinoid, HTN also likely contributed. Also
   considering trauma and infection.
   - Keep patient sedated overnight with propfol
   - cough suppressants following to prevent clot from dislodging
   - should patient rebleed, push ET tube into right bronchus and turn
   patient left side down.
   - DDAVP given on ASA/plavix
   - CXR now, and daily
   - keep plavix for now, discontinue ASA
   - IP to rebronch today, will f/u results
   - Will call IR to make aware he may need embolization if he bleeds
   Ground Glass Opacities: these have worsened since previous CT in
   [**Month (only) **]. Differential  inculdes vasculitis, possibly goodpastures or
   wegeners given concurrent kidney disease. Also possible infectious, may
   be PCP (although no risk factors), viral possible, atypical, fungal.
   Also may be beginning of interstitial lung disease, hypersensitivity
   pneumonitis. Considering drug toxicity, but no known exposures to drugs
   known to cause pulm issues. Most likely in this patient given
   hemosiderin laiden macrophages and high wedges and hypertension is
   heart failure related interstitial process.
   - For vasculitic processes: f/u anti GBP, ANCA, [**Doctor First Name **].
   - RF , CRP, ESR: all elevated
   - f/u BAL for infectious etiology
   - treat htn and recheck CT scan after hemodynamically controlled for
   several weeks.
   - check ttg for [**Male First Name (un) 1295**]-[**Location (un) 1296**] Syndrome
    Respiratory: on AC, last gas from OR alkalemic: patient alkalemic, but
   with normal PCO2 and bicarb.
   - will keep on AC, decrease RR 14
 10, as likely usually hypercarbic
   - recheck gas, adjust as necessary
    HTN: running high on floor as well, will try to keep goal BP 150 for
   now.
   - continue [**Last Name (un) 284**], Metoprolol, nifedipine, lisinopril, isorbide
   mononitrate-- switched to short acting, because long acting is not
   crushable.
   - PRN hydral as needed overnight has HTN will exacerbate bleed
    CAD: recent DES to RCA in [**5-5**].
   - continue Atorvastatin 80mg, Zetia, Losartan, Metoprolol, nifedipine,
   isosorbide monitrate and lisinoprol.
   - hold ASA and continue plavix.
   DMI: continue home doses, half standing while NPO
   ESRD: MWF, appears euvolemic at present.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2140-10-7**] 04:38 PM
   Arterial Line - [**2140-10-7**] 05:25 PM
   16 Gauge - [**2140-10-7**] 08:20 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: PPI, h2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-10-08 09:27:00 Physician Attending Progress Note
Chief Complaint: 48 year man with hemoptysis, here for 10 days for PNA,
   readmit with 1/2 cup hemoptysis shortly following d/c
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Intubated for rigid bronch, here for monitoring and rebronch
   24 Hour Events:
 OR RECEIVED - At [**2140-10-7**] 04:29 PM
 ARTERIAL LINE - START [**2140-10-7**] 05:25 PM
   On codeine for cough suppression and hydal IV for better BP control.
   No further hemoptysis
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2140-10-7**] 07:50 PM
   Other medications:
   lipitor, losartan/potassium, metoprolol, ranitidine, zetia, renogel,
   fluticasone, nephrocaps, sinicalcet, omeprazole, asa, plavix, docusate,
   lisinopril, nifedipine, RISS, isosorbide, guaifensen/codeine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-8**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.7
   HR: 57 (57 - 65) bpm
   BP: 141/61(88) {120/52(72) - 198/74(118)} mmHg
   RR: 14 (14 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    418 mL
                                                                    560 mL
   PO:
             TF:
   IVF:
                                                                    418 mL
                                                                    480 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    418 mL
                                                                    560 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.54/39/182/32/10
   Ve: 8.3 L/min
   PaO2 / FiO2: 455
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace, s/p multiple toe amps
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   258 K/uL
   33 mg/dL
   6.1 mg/dL
   32 mEq/L
   4.0 mEq/L
   32 mg/dL
   100 mEq/L
   141 mEq/L
   25.8 %
   6.4 K/uL
         [image002.jpg]
                            [**2140-10-7**]  03:12 PM
                            [**2140-10-7**]  08:35 PM
                            [**2140-10-7**]  10:21 PM
                            [**2140-10-8**]  04:42 AM
   WBC
   6.4
   Hct
   26
   26
   25.8
   Plt
   258
   Cr
   6.1
   TCO2
   32
   31
   34
   Glucose
   97
   33
   Other labs: PT / PTT / INR:15.0/31.6/1.3, Lactic Acid:0.8 mmol/L,
   Ca++:9.0 mg/dL, Mg++:1.8 mg/dL, PO4:4.5 mg/dL
   Imaging: CXR unchanged
   Assessment and Plan
   Assessment and Plan
   Mr. [**Known lastname **] is a 48 y/o M with DMI, ESRD who presents with bleeding
   during bronch done for persistent hemoptysis and worsening diffuse
   ground glass infiltrates.
   Transient Massive Hemoptysis During Bronch: likely source of bleeding
   was identified during flex bronch, the patient coughed and had
   resultant bleeding. Of note patient had DES 5 months prior and is on
   ASa/Plavix. etiologies of the bleed include AVM, clot from previous
   bronch in setting of anticoagulation although doesnt appear same lobe,
   vasculitis, CA (although not visualized on CT) possibly carcinoid, HTN
   also likely contributed. Also considering trauma and infection.
   - Keep patient sedated overnight with propfol
   - cough suppressants following to prevent clot from dislodging
   - should patient rebleed, push ET tube into right bronchus and turn
   patient left side down.
   - DDAVP given on ASA/plavix
   - CXR now, and daily
   - keep plavix for now
   Ground Glass Opacities: these have worsened since previous CT in
   [**Month (only) **].  Most likely in this patient given hemosiderin laiden
   macrophages and high wedges and hypertension is heart failure related
   intersticial process. Pulm hemorrhage from Dilafoy's most likely
   etiology
   - For vasculitic processes: f/u anti GBP, ANCA, [**Doctor First Name **].
   - RF , CRP, ESR: all elevated
   - f/u BAL for infectious etiology
   - treat htn and recheck CT scan after hemodynamically controleld for
   several weeks.
    Respiratory: on AC, last gas from OR alkalemic: patient alkalemic, but
   with normal PCO2 and bicarb.
   - will keep on AC overnight
   - recheck gas, adjust as necessary
    HTN: running high on floor as well, will try to keep goal BP 150 for
   now.
   - continue [**Last Name (un) 284**], Metoprolol, nifedipine, lisinopril, isorbide
   mononitrate-- switched to short acting, because long acting is not
   crushable.
   - PRN hydral as needed overnight has HTN will exacerbate bleed
    CAD: recent DES to RCA in [**5-5**].
   - continue Atorvastatin 80mg, Zetia, Losartan, Metoprolol, nifedipine,
   isosorbide monitrate and lisinoprol.
   - continue ASA and plavix.
   DMI: RISS while unstable or consider IV Insulin drip at low dose
   ESRD: MWF, appears euvolemic at present.
   ICU Care
   Nutrition:
   Comments: NPO for possible OR
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2140-10-7**] 04:38 PM
   Arterial Line - [**2140-10-7**] 05:25 PM
   16 Gauge - [**2140-10-7**] 08:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2140-10-09 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2140-10-8**] 09:34 AM
   - Around 11:00 PM, coughed, bright red bloody secretions were noted, 1
   cm dark blood clot in ET tube. IP called, requested IH lidocaine, will
   plan to re-bronch in AM.
   - Sedation increased after cough.
   - Per cardiology (Dr. [**Last Name (STitle) **], given that he has completed 3 months of
   aspirin and plavix, and in setting of potential life-threatening bleed,
   should STOP plavix and CONTINUE aspirin
   - IR (Dr. [**Last Name (STitle) 1363**] consulted, team is aware of patient and know his
   case should he need embolization intervention urgently.
   - Renal: Electrolytes look okay, not volume overloaded, so no dialysis
   at present.
   - Pharmacy: Need to monitor CK, triglycerides while on higher dose
   propofol.
   - Nifedipine held as cannot be crushed.
   This morning, no response to verbal or tactile stimuli. No additional
   episodes of coughing have been witnessed.
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2140-10-8**] 07:03 PM
   Other medications:
   Aspirin 325 mg, Codeine 15 mg Q6H, Insulin gtt, Heparin SQ TID,
   Metoprolol 100 mg TID, Isosorbide Mononitrate 20 mg [**Hospital1 **], Chlorhexidine,
   Propofol, Trazodone PRN QHS, Lisinopril 40 mg, Immodium, Senna, Colace,
   Simethicone, Omeprazole, Cinacalcet, Nephrocaps, Flovent, Sevelamer,
   Zetia, Ranitidine, Losartan, Atorvastatin, Tylenol
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2140-10-9**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 64 (52 - 65) bpm
   BP: 168/81(113) {90/50(66) - 177/90(118)} mmHg
   RR: 14 (14 - 14) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,570 mL
                                                                    345 mL
   PO:
             TF:
   IVF:
                                                                  1,225 mL
                                                                    345 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,570 mL
                                                                    345 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.52/35/122/27/6
   Ve: 8.3 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General: Intubated, sedated, appears to be in NAD
   HEENT: NC/AT. ETT in place. PERRL. No scleral icterus or conjunctival
   pallor. No blood noted in ET tubing today.
   Neck: Supple.
   Lungs: Bilateral breath sounds present, transmitted upper airway
   noises. No wheezes or rales anteriorly.
   Cardiac: Regular, distant heart sounds, no m/g/r appreciated
   Abd: Soft, NT, ND, +BS
   Extr: Warm, pneumoboots in place, AVF in place in right arm
   Neuro: No response to verbal or tactile stimuli. PERRL
   Skin: No lesions noted
   Labs / Radiology
   239 K/uL
   8.0 g/dL
   86 mg/dL
   7.5 mg/dL
   27 mEq/L
   5.0 mEq/L
   45 mg/dL
   97 mEq/L
   134 mEq/L
   24.0 %
   5.0 K/uL
        [image002.jpg]
                            [**2140-10-7**]  03:12 PM
                            [**2140-10-7**]  08:35 PM
                            [**2140-10-7**]  10:21 PM
                            [**2140-10-8**]  04:42 AM
                            [**2140-10-8**]  10:04 PM
                            [**2140-10-9**]  04:14 AM
   WBC
   6.4
   5.0
   Hct
   26
   26
   25.8
   24.0
   Plt
   258
   239
   Cr
   6.1
   7.5
   TCO2
   32
   31
   34
   30
   Glucose
   97
   33
   86
   Other labs: PT / PTT / INR:14.0/33.2/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:6.7 mg/dL
   Triglyceride pending, CK 33
   [**10-6**] Lupus negative, ACA IgG and IgM pending, ANCA negative, Rheumatoid
   factor 31, IgG 1470 (normal), IgA 221 (normal), IgM 31 (low), C3/C4
   within normal limits, TTG Ab IgA pending. IgE and Anti-GBM pending.
   Culture data:
   No new positive data
   Imaging: Chest x-ray from today pending.
   Assessment and Plan
   Patient is a 48 year old male with type 1 diabetes mellitus, ESRD on
   dialysiswho presents with bleeding during bronch done for persistent
   hemoptysis and worsening diffuse ground glass infiltrates.
   #) Transient Massive Hemoptysis During Bronch:
   Overnight, one episode of coughing with bright red blood, dried clot
   noted in ETT. As noted previously, likely source of bleeding was
   identified during flex bronch, IP team feels it may be a dulefoys
   ulcer, although these are usually seen in GI tract.   Of note patient
   had DES 5 months prior and is on ASA/Plavix. Other etiologies of the
   bleed include AVM, clot from previous bronch in setting of
   anticoagulation although doesnt appear same lobe, vasculitis, CA
   (although not visualized on CT) possibly carcinoid, HTN also likely
   contributed. Also considering trauma and infection.
   - Given episode of hemoptysis overnight with single episode of
   coughing, will hold off on extubation for one additional day and
   continue sedation and cough suppression. Per IP team, airways appeared
   overall clean yesterday.
   - Should patient re-bleed, plan is to push ET tube into right bronchus
   and turn patient left side down, call IP and IR urgently.
   - DDAVP given on ASA/plavix, end-stage renal disease with uremic
   platelets
   - CXR daily.
   - Per renal team, may benefit from a bleeding perspective with blood
   transfusion, so giving one unit of PRBCs.
   - As noted with discussion with cardiology, will stop plavix and
   continue full strength aspirin.
   - Major concern is re-bleed should patient cough
given hemoptysis
   overnight with cough, and again this morning with some blood when
   coughing, will remain sedated and intubated today and plan to extubate
   tomorrow if no evidence of on-going bleeding.
   - IR and CT surgery aware of patient should IP team not be able to
   control bleeding.
   - Serologies as noted above.
   .
   #) Ground Glass Opacities: These have worsened since previous CT in
   [**Month (only) 270**]. Differential  inculdes vasculitis, possibly goodpastures or
   wegeners given concurrent kidney disease. Also possible infectious, may
   be PCP (although no risk factors), viral possible, atypical, fungal.
   Also may be beginning of interstitial lung disease, hypersensitivity
   pneumonitis. Considering drug toxicity, but no known exposures to drugs
   known to cause pulm issues. Most likely in this patient given
   hemosiderin laiden macrophages and high wedges and hypertension is
   heart failure related interstitial process.
   - For vasculitic processes: ANCA negative, Anti-GBM pending, ACA
   pending, TTG pending.
   - RF , CRP, ESR: all elevated
   - No growth of culture data from BAL.
   - Will continue to treat hypertension and re-check CT scan after
   hemodynamically controlled for several weeks.
   - TTG pending for [**Male First Name (un) 1367**]-[**Location (un) 1296**] Syndrome
   #)  Respiratory: Patient remains on AC, last gas demonstrates
   alkalosis, suspect patient is usually hypercarbic given obesity (and
   likely hypoventilation) and OSA, but with normal PCO2 and bicarb.
   - Rate decreased to 10 this AM, will re-check.
   - Recheck gas, adjust as necessary
   #)  HTN: Overall improved control, but systolic to 180 this morning
   prior to medications. Goal SBP <150 for now.
   - Continue [**Last Name (un) 284**], Metoprolol, lisinopril, isorbide mononitrate-- switched
   to short acting, because long acting is not crushable. Nifedipine on
   hold as no appropriate short-acting (crushable) alternative is
   available.
   - PRN hydral as needed overnight has HTN will exacerbate bleed
    #) CAD: recent DES to RCA in [**5-5**].
   - Continue Atorvastatin 80mg, Zetia, Losartan, Metoprolol, nifedipine,
   isosorbide monitrate and lisinoprol.
   - Appreciate cardiology assistance: Stopping plavix in light of
   significant bleeding, continuing ASA 325 mg.
   #) DMI: Patient was persistently hypoglycemic yesterday in setting of
   receiving full dose of NPH, renal failure, and NPO status. Monitoring
   frequent finger sticks (1-2 hours), and will initiate insulin drip once
   FSBG above 120-140.
   .
   #) ESRD: MWF, appears euvolemic at present. Renal team is following,
   appreciate assistance. Will transfuse one unit of PRBCs as discussed
   above. Given evidence of hypervolemia on CXR and hyperkalemia, will
   need dialysis tomorrow.
   ICU Care
   Nutrition:
   NPO at present (given concern for interventions
eg lobectomy, IR
   procedure)
   Glycemic Control:  As discussed above
   Lines:
   18 Gauge - [**2140-10-7**] 04:38 PM
   Arterial Line - [**2140-10-7**] 05:25 PM
   16 Gauge - [**2140-10-7**] 08:20 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: PPI, H2 blocker
   VAP:  Chlorhexidine, head of bed elevation
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU for further monitoring.

2140-10-09 10:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2140-10-8**] 09:34 AM
   One episode bloody sputum last PM, did not recur
   Deeply sedated for rest of evening
   Will be bronched this AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2140-10-8**] 07:03 PM
   Lansoprazole (Prevacid) - [**2140-10-9**] 08:00 AM
   Other medications:
   Propofol drip, Atorvastatin, Cozar, Zantac, Zetia, sevelamir,
   nephrocaps, sinecalcep, omeprazole, colace, lisinopril, isosorbide,
   lopressor, asa
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-9**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 64 (52 - 65) bpm
   BP: 155/69(101) {91/51(71) - 179/90(118)} mmHg
   RR: 14 (14 - 14) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,570 mL
                                                                    548 mL
   PO:
             TF:
   IVF:
                                                                  1,225 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,570 mL
                                                                    548 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.52/35/122/27/6
   Ve: 8.3 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace, missing many toes
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   239 K/uL
   86 mg/dL
   7.5 mg/dL
   27 mEq/L
   5.0 mEq/L
   45 mg/dL
   97 mEq/L
   134 mEq/L
   24.0 %
   5.0 K/uL
        [image002.jpg]
                            [**2140-10-7**]  03:12 PM
                            [**2140-10-7**]  08:35 PM
                            [**2140-10-7**]  10:21 PM
                            [**2140-10-8**]  04:42 AM
                            [**2140-10-8**]  10:04 PM
                            [**2140-10-9**]  04:14 AM
   WBC
   6.4
   5.0
   Hct
   26
   26
   25.8
   24.0
   Plt
   258
   239
   Cr
   6.1
   7.5
   TCO2
   32
   31
   34
   30
   Glucose
   97
   33
   86
   Other labs: PT / PTT / INR:14.0/33.2/1.2, Lactic Acid:0.8 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:6.7 mg/dL
   Assessment and Plan
   Assessment and Plan
   Patient is a 48 year old male with type 1 diabetes mellitus, ESRD on
   dialysiswho presents with bleeding during bronch done for persistent
   hemoptysis and worsening diffuse ground glass infiltrates.
   Transient Massive Hemoptysis During Bronch: likely source of bleeding
   was identified during flex bronch, IP thinks it may be a dulefoys
   ulcer, although these are usually seen in GI tract.   Of note patient
   had DES 5 months prior and is on ASa/Plavix. etiologies of the bleed
   include AVM, clot from previous bronch in setting of anticoagulation
   although doesnt appear same lobe, vasculitis, CA (although not
   visualized on CT) possibly carcinoid, HTN also likely contributed. Also
   considering trauma and infection.
   - Keep patient sedated overnight with propfol
   - cough suppressants following to prevent clot from dislodging
   - should patient rebleed, push ET tube into right bronchus and turn
   patient left side down.
   - DDAVP given on ASA/plavix
   - CXR now, and daily
   - keep plavix for now, discontinue ASA
   - IP to rebronch today, will f/u results
   - Will call IR to make aware he may need embolization if he bleeds
   Ground Glass Opacities: these have worsened since previous CT in
   [**Month (only) **]. Differential  inculdes vasculitis, possibly goodpastures or
   wegeners given concurrent kidney disease. Also possible infectious, may
   be PCP (although no risk factors), viral possible, atypical, fungal.
   Also may be beginning of interstitial lung disease, hypersensitivity
   pneumonitis. Considering drug toxicity, but no known exposures to drugs
   known to cause pulm issues. Most likely in this patient given
   hemosiderin laiden macrophages and high wedges and hypertension is
   heart failure related interstitial process.
   - For vasculitic processes: f/u anti GBP, ANCA, [**Doctor First Name **].
   - RF , CRP, ESR: all elevated
   - f/u BAL for infectious etiology
   - treat htn and recheck CT scan after hemodynamically controlled for
   several weeks.
    Respiratory: on AC - resp alkalosis - drop back up rate
   - recheck gas, adjust as necessary
    HTN: running high on floor as well, will try to keep goal BP 150 for
   now.
   - continue [**Last Name (un) 284**], Metoprolol, nifedipine, lisinopril, isorbide
   mononitrate-- switched to short acting, because long acting is not
   crushable.
   - PRN hydral as needed overnight has HTN will exacerbate bleed
    CAD: recent DES to RCA in [**5-5**].
   - continue Atorvastatin 80mg, Zetia, Losartan, Metoprolol, nifedipine,
   isosorbide monitrate and lisinoprol.
   - hold ASA and continue plavix.
   DMI: continue home doses, half standing while NPO
   ESRD: MWF, appears euvolemic at present.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2140-10-7**] 04:38 PM
   Arterial Line - [**2140-10-7**] 05:25 PM
   16 Gauge - [**2140-10-7**] 08:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2140-10-10 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2140-10-10**] 06:00 AM
   - IP saw, no plans to re-bronch for now
   - Considering extubation, however cough clot late Sat/early Sunday,
   then during day on Sunday had cough with plug and very small amount of
   BRB from ETT with desat episode, so kept intubated and sedated on
   propofol, likely extubation Monday
   - Plan for HD Monday (Renal aware)
   - K 5.9 this AM, no EKG changes, fisrt on list for HD this AM
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2140-10-9**] 08:00 AM
   Hydralazine - [**2140-10-10**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-10**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 64 (59 - 66) bpm
   BP: 157/62(97) {143/62(91) - 179/95(124)} mmHg
   RR: 16 (11 - 16) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,655 mL
                                                                    411 mL
   PO:
             TF:
   IVF:
                                                                  1,158 mL
                                                                    381 mL
   Blood products:
                                                                    287 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,655 mL
                                                                    411 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.41/43/138/24/2
   Ve: 9.6 L/min
   PaO2 / FiO2: 345
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   237 K/uL
   8.6 g/dL
   69 mg/dL
   9.0 mg/dL
   24 mEq/L
   5.9 mEq/L
   55 mg/dL
   94 mEq/L
   132 mEq/L
   25.5 %
   4.9 K/uL
        [image002.jpg]
                            [**2140-10-7**]  03:12 PM
                            [**2140-10-7**]  08:35 PM
                            [**2140-10-7**]  10:21 PM
                            [**2140-10-8**]  04:42 AM
                            [**2140-10-8**]  10:04 PM
                            [**2140-10-9**]  04:14 AM
                            [**2140-10-9**]  04:40 PM
                            [**2140-10-10**]  04:12 AM
                            [**2140-10-10**]  04:24 AM
   WBC
   6.4
   5.0
   4.9
   Hct
   26
   26
   25.8
   24.0
   25.5
   Plt
   258
   239
   237
   Cr
   6.1
   7.5
   9.0
   TCO2
   32
   31
   34
   30
   25
   28
   Glucose
   97
   33
   86
   69
   Other labs: PT / PTT / INR:13.7/33.1/1.2, CK / CKMB / Troponin-T:21//,
   Differential-Neuts:67.6 %, Lymph:18.1 %, Mono:7.0 %, Eos:6.6 %, Lactic
   Acid:0.8 mmol/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:8.9 mg/dL
   Assessment and Plan
   Patient is a 48 year old male with type 1 diabetes mellitus, ESRD on
   dialysiswho presents with bleeding during bronch done for persistent
   hemoptysis and worsening diffuse ground glass infiltrates.
   Transient Massive Hemoptysis During Bronch:
   Overnight, one episode of coughing with bright red blood, dried clot
   noted in ETT. As noted previously, likely source of bleeding was
   identified during flex bronch, IP team feels it may be a dulefoys
   ulcer, although these are usually seen in GI tract.  Of note patient
   had DES 5 months prior and is on ASA/Plavix. Other etiologies of the
   bleed include AVM, clot from previous bronch in setting of
   anticoagulation although doesnt appear same lobe, vasculitis, CA
   (although not visualized on CT) possibly carcinoid, HTN also likely
   contributed. Also considering trauma and infection.
   - Given episode of hemoptysis overnight with single episode of
   coughing, will hold off on extubation for one additional day and
   continue sedation and cough suppression. Per IP team, airways appeared
   overall clean yesterday.
   - Should patient re-bleed, plan is to push ET tube into right bronchus
   and turn patient left side down, call IP and IR urgently.
   - Per Cardiology ok to discontinue plavix and continue ASA only.
   - CXR daily.
   - Per renal team, may benefit from a bleeding perspective with blood
   transfusion, so giving one unit of PRBCs.
   - IR and CT surgery aware of patient should IP team not be able to
   control bleeding.
   Ground Glass Opacities: These have worsened since previous CT in
   [**Month (only) 270**]. Differential  inculdes vasculitis, possibly goodpastures or
   wegeners given concurrent kidney disease. Also possible infectious, may
   be PCP (although no risk factors), viral possible, atypical, fungal.
   Also may be beginning of interstitial lung disease, hypersensitivity
   pneumonitis. Considering drug toxicity, but no known exposures to drugs
   known to cause pulm issues. Most likely in this patient given
   hemosiderin laiden macrophages and high wedges and hypertension is
   heart failure related interstitial process.
   - For vasculitic processes: ANCA negative, Anti-GBM pending, ACA
   pending, TTG pending.
   - RF , CRP, ESR: all elevated
   - No growth of culture data from BAL.
   - Will continue to treat hypertension and re-check CT scan after
   hemodynamically controlled for several weeks.
   - TTG pending for [**Male First Name (un) 1367**]-[**Location (un) 1296**] Syndrome
   Respiratory: Patient remains on AC, last gas demonstrates alkalosis,
   suspect patient is usually hypercarbic given obesity (and likely
   hypoventilation) and OSA, but with normal PCO2 and bicarb.
   - Rate decreased to 10 this AM, will re-check.
   - Recheck gas, adjust as necessary
   HTN: Overall improved control, but systolic to 180 this morning prior
   to medications. Goal SBP <150 for now.
   - Continue [**Last Name (un) 284**], Metoprolol, lisinopril, isorbide mononitrate-- switched
   to short acting, because long acting is not crushable. Nifedipine on
   hold as no appropriate short-acting (crushable) alternative is
   available.
   - PRN hydral as needed overnight has HTN will exacerbate bleed
   CAD: recent DES to RCA in [**5-5**].
   - Continue Atorvastatin 80mg, Zetia, Losartan, Metoprolol, nifedipine,
   isosorbide monitrate and lisinoprol.
   - Appreciate cardiology assistance: Stopping plavix in light of
   significant bleeding, continuing ASA 325 mg.
   DMI: Patient was persistently hypoglycemic yesterday in setting of
   receiving full dose of NPH, renal failure, and NPO status. Monitoring
   frequent finger sticks (1-2 hours), and will initiate insulin drip once
   FSBG above 120-140.
   ESRD: MWF, appears euvolemic at present. Renal team is following,
   appreciate assistance. Will transfuse one unit of PRBCs as discussed
   above. Given evidence of hypervolemia on CXR and hyperkalemia, will
   need dialysis tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2140-10-7**] 04:38 PM
   Arterial Line - [**2140-10-7**] 05:25 PM
   16 Gauge - [**2140-10-7**] 08:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-10-10 10:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2140-10-10**] 06:00 AM
   Bronch'd by IP this AM - bleeding from LUL, copious mucous
   L Lung Collapse on CXR
   Plan for bronch in OR tomorrow with clean-out, cauterization
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Propofol - 70 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2140-10-10**] 06:00 AM
   Other medications:
   atorvastatin, losartan/k, famitidien, zetia, sevelamir, nephrocaps,
   cinacalcet, omeprazole, colace, lisinopril, isosorbide, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-10**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 63 (59 - 66) bpm
   BP: 152/63(96) {143/62(91) - 173/95(124)} mmHg
   RR: 14 (11 - 16) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,655 mL
                                                                    613 mL
   PO:
             TF:
   IVF:
                                                                  1,158 mL
                                                                    503 mL
   Blood products:
                                                                    287 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,655 mL
                                                                    613 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.41/43/138/24/2
   Ve: 8.5 L/min
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: on left)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace, mulyiple toe amps
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   237 K/uL
   69 mg/dL
   9.0 mg/dL
   24 mEq/L
   5.9 mEq/L
   55 mg/dL
   94 mEq/L
   132 mEq/L
   25.5 %
   4.9 K/uL
        [image002.jpg]
                            [**2140-10-7**]  03:12 PM
                            [**2140-10-7**]  08:35 PM
                            [**2140-10-7**]  10:21 PM
                            [**2140-10-8**]  04:42 AM
                            [**2140-10-8**]  10:04 PM
                            [**2140-10-9**]  04:14 AM
                            [**2140-10-9**]  04:40 PM
                            [**2140-10-10**]  04:12 AM
                            [**2140-10-10**]  04:24 AM
   WBC
   6.4
   5.0
   4.9
   Hct
   26
   26
   25.8
   24.0
   25.5
   Plt
   258
   239
   237
   Cr
   6.1
   7.5
   9.0
   TCO2
   32
   31
   34
   30
   25
   28
   Glucose
   97
   33
   86
   69
   Other labs: PT / PTT / INR:13.7/33.1/1.2, CK / CKMB / Troponin-T:21//,
   Differential-Neuts:67.6 %, Lymph:18.1 %, Mono:7.0 %, Eos:6.6 %, Lactic
   Acid:0.8 mmol/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:8.9 mg/dL
   Imaging: CXR - collapse of L lung
   Assessment and Plan
   Assessment and Plan
    Patient is a 48 year old male with type 1 diabetes mellitus, ESRD on
   dialysiswho presents with bleeding during bronch done for persistent
   hemoptysis and worsening diffuse ground glass infiltrates.
   Transient Massive Hemoptysis: likely source of bleeding was identified
   during flex bronch, IP thinks it may be a dulefoys ulcer, although
   these are usually seen in GI tract.   Of note patient had DES 5 months
   prior and is on ASa/Plavix. etiologies of the bleed include AVM, clot
   from previous bronch in setting of anticoagulation although doesnt
   appear same lobe, vasculitis, CA (although not visualized on CT)
   possibly carcinoid, HTN also likely contributed. Also considering
   trauma and infection.
   - Keep patient sedated overnight with propfol for planned rigid bronch
   in OR tomorrow
   - cough suppressants following to prevent clot from dislodging
   - should patient rebleed, push ET tube into right bronchus and turn
   patient left side down.
   - DDAVP given on ASA off plavix per cards
   - Ground Glass Opacities: these have worsened since previous CT in
   [**Month (only) **]. Differential  inculdes vasculitis, possibly goodpastures or
   wegeners given concurrent kidney disease. Also possible infectious, may
   be PCP (although no risk factors), viral possible, atypical, fungal.
   Also may be beginning of interstitial lung disease, hypersensitivity
   pneumonitis. Considering drug toxicity, but no known exposures to drugs
   known to cause pulm issues. Most likely in this patient given
   hemosiderin laiden macrophages and high wedges and hypertension is
   heart failure related interstitial process.
   - For vasculitic processes: f/u anti GBP, ANCA, [**Doctor First Name **].
   - RF , CRP, ESR: all elevated
   -
   - treat htn and recheck CT scan after hemodynamically controlled for
   several weeks.
   Respiratory: on AC -  will change to PS to facilitate wean post bronch
   tomorrow
   - recheck gas, adjust as necessary
    HTN: running high on floor as well, will try to keep goal BP 150 for
   now.
   - continue [**Last Name (un) 284**], Metoprolol, nifedipine, lisinopril, isorbide
   mononitrate-- switched to short acting, because long acting is not
   crushable.
    CAD: recent DES to RCA in [**5-5**].
   - continue Atorvastatin 80mg, Zetia, Losartan, Metoprolol, nifedipine,
   isosorbide monitrate and lisinoprol.
   DMI: continue home doses, half standing while NPO
   ESRD: Dialysis MWF, appears euvolemic at present.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2140-10-7**] 04:38 PM
   Arterial Line - [**2140-10-7**] 05:25 PM
   16 Gauge - [**2140-10-7**] 08:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2140-10-11 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2140-10-10**] 10:15 AM
   LOTS OF SECRETIONS REMOVED AND SM AMT OF OOZING STILL NOTED
   - tolerated pressure support [**10-2**]  40% all day yesterday
   - propofol now at 50
   - Rigid bronch early tuesday morning
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-11**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.1
   HR: 63 (63 - 71) bpm
   BP: 154/61(91) {119/54(78) - 189/186(187)} mmHg
   RR: 14 (13 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,412 mL
                                                                    308 mL
   PO:
             TF:
   IVF:
                                                                  1,092 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  4,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,088 mL
                                                                    308 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 513 (227 - 526) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 8 L/min
   Physical Examination
   General: Intubated, sedated, appears to be in NAD
   HEENT: NC/AT. ETT in place. PERRL. No scleral icterus or conjunctival
   pallor. No blood noted in ET tubing today.
   Neck: Supple.
   Lungs: Bilateral breath sounds present, transmitted upper airway
   noises. No wheezes or rales anteriorly.
   Cardiac: Regular, distant heart sounds, no m/g/r appreciated
   Abd: Soft, NT, ND, +BS
   Extr: Warm, pneumoboots in place, AVF in place in right arm
   Neuro: No response to verbal or tactile stimuli. PERRL
   Skin: No lesions noted
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   245 K/uL
   8.5 g/dL
   76 mg/dL
   6.9 mg/dL
   28 mEq/L
   4.8 mEq/L
   36 mg/dL
   96 mEq/L
   136 mEq/L
   25.9 %
   6.9 K/uL
        [image002.jpg]
                            [**2140-10-7**]  03:12 PM
                            [**2140-10-7**]  08:35 PM
                            [**2140-10-7**]  10:21 PM
                            [**2140-10-8**]  04:42 AM
                            [**2140-10-8**]  10:04 PM
                            [**2140-10-9**]  04:14 AM
                            [**2140-10-9**]  04:40 PM
                            [**2140-10-10**]  04:12 AM
                            [**2140-10-10**]  04:24 AM
                            [**2140-10-11**]  04:26 AM
   WBC
   6.4
   5.0
   4.9
   6.9
   Hct
   26
   26
   25.8
   24.0
   25.5
   25.9
   Plt
   258
   239
   237
   245
   Cr
   6.1
   7.5
   9.0
   6.9
   TCO2
   32
   31
   34
   30
   25
   28
   Glucose
   97
   33
   86
   69
   76
   Other labs: PT / PTT / INR:14.1/34.5/1.2, CK / CKMB / Troponin-T:21//,
   Differential-Neuts:67.6 %, Lymph:18.1 %, Mono:7.0 %, Eos:6.6 %, Lactic
   Acid:0.8 mmol/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:8.5 mg/dL
   Assessment and Plan
   Patient is a 48 year old male with type 1 diabetes mellitus, ESRD on
   dialysiswho presents with bleeding during bronch done for persistent
   hemoptysis and worsening diffuse ground glass infiltrates.
   Hemoptysis: Dulefoys lesion: White out of left lung on AM chest xray
   yesterday, IP bronched, saw oozing blood at source. Will rigid today in
   OR.  As noted previously, likely source of bleeding was identified
   during flex bronch, IP team feels it may be a dulefoys ulcer, although
   these are usually seen in GI tract
   - Given oozing, will keep intubated, plan for OR for rigid bronch
   today.
   - PS in AM, plan to extubated after rigid.
   - Should patient re-bleed, plan is to push ET tube into right bronchus
   and turn patient left side down, call IP and IR urgently.
   - Per Cardiology ok to discontinue plavix and continue ASA only.
   - CXR daily.
   - standing cough suppression.
   - IR and CT surgery aware of patient should IP team not be able to
   control bleeding.
   Ground Glass Opacities: These have worsened since previous CT in
   [**Month (only) 270**]. Differential  inculdes vasculitis, possibly goodpastures or
   wegeners given concurrent kidney disease. Also possible infectious, may
   be PCP (although no risk factors), viral possible, atypical, fungal.
   Also may be beginning of interstitial lung disease, hypersensitivity
   pneumonitis. Considering drug toxicity, but no known exposures to drugs
   known to cause pulm issues. Most likely in this patient given
   hemosiderin laiden macrophages and high wedges and hypertension is
   heart failure related interstitial process.
   - For vasculitic processes: ANCA negative, Anti-GBM pending, ACA
   pending, TTG pending.
   - RF , CRP, ESR: all elevated
   - No growth of culture data from BAL.
   - Will continue to treat hypertension and re-check CT scan after
   hemodynamically controlled for several weeks.
   - TTG pending for [**Male First Name (un) 1367**]-[**Location (un) 1296**] Syndrome
   Respiratory: Patient remains on AC, last gas demonstrates alkalosis,
   suspect patient is usually hypercarbic given obesity (and likely
   hypoventilation) and OSA, but with normal PCO2 and bicarb.
   - Keep intubated for now, will try pressure support this PM for plan to
   extubate after rigid bronch today.
   - Recheck gas, adjust as necessary
   HTN: Overall improved control.
   - Continue [**Last Name (un) 284**], Metoprolol, lisinopril, isorbide mononitrate-- switched
   to short acting, because long acting is not crushable. Nifedipine on
   hold as no appropriate short-acting (crushable) alternative is
   available.
   - PRN hydral as needed overnight has HTN will exacerbate bleed
   CAD: recent DES to RCA in [**5-5**].
   - Continue Atorvastatin 80mg, Zetia, Losartan, Metoprolol, nifedipine,
   isosorbide monitrate and lisinoprol.
   - Appreciate cardiology assistance: Stopping plavix in light of
   significant bleeding, continuing ASA 325 mg.
   DMI: Patient was recently hypoglycemic in setting of receiving full
   dose of NPH, renal failure, and NPO status. Interestingly, he
s a type
   1 diabetic and has been off Insulin for several days, but has not
   developed DKA and fingersticks remain low. TSH normal on recent check.
   No evidence of adrenal insufficiency.
   - Will start D5 and Insulin as needed
   - Advance diet once extubated and tolerating PO
   ESRD: MWF, appears euvolemic at present. Renal team is following,
   appreciate assistance. Will transfuse one unit of PRBCs as discussed
   above. Given evidence of hypervolemia on CXR and hyperkalemia, will
   need dialysis tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-10-7**] 05:25 PM
   18 Gauge - [**2140-10-11**] 01:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2140-10-12 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Underwent rigid bronch yesterday with APC
   - Had interval inc LUL atelectasis, rebronched without significant
   findings
   - remained intubated overnight
   - NGT inserted last night for meds as this was removed in IP suite
   - been consistently hypoglycemic/normoglycemic for a type I diabetic.
   We gave some D5 in hopes of giving some reg insulin; not making urine
   to check ketones but anion gap is stable at 14
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2140-10-11**] 02:34 PM
   Heparin Sodium (Prophylaxis) - [**2140-10-12**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-12**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 76 (61 - 79) bpm
   BP: 135/56(80) {107/50(71) - 199/149(153)} mmHg
   RR: 13 (10 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,192 mL
                                                                    523 mL
   PO:
             TF:
   IVF:
                                                                  1,112 mL
                                                                    523 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,192 mL
                                                                    523 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 335 (335 - 560) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 10 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.34/51/160/25/0
   NIF: -8 cmH2O
   Ve: 6.8 L/min
   PaO2 / FiO2: 400
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   291 K/uL
   8.0 g/dL
   89 mg/dL
   8.3 mg/dL
   25 mEq/L
   5.0 mEq/L
   48 mg/dL
   95 mEq/L
   134 mEq/L
   23.7 %
   7.3 K/uL
        [image002.jpg]
                            [**2140-10-8**]  04:42 AM
                            [**2140-10-8**]  10:04 PM
                            [**2140-10-9**]  04:14 AM
                            [**2140-10-9**]  04:40 PM
                            [**2140-10-10**]  04:12 AM
                            [**2140-10-10**]  04:24 AM
                            [**2140-10-11**]  04:26 AM
                            [**2140-10-11**]  03:15 PM
                            [**2140-10-12**]  03:28 AM
                            [**2140-10-12**]  03:40 AM
   WBC
   6.4
   5.0
   4.9
   6.9
   7.3
   Hct
   25.8
   24.0
   25.5
   25.9
   23.7
   Plt
   258
   239
   237
   245
   291
   Cr
   6.1
   7.5
   9.0
   6.9
   8.3
   TCO2
   30
   25
   28
   26
   29
   Glucose
   33
   86
   69
   76
   89
   Other labs: PT / PTT / INR:14.1/34.5/1.2, CK / CKMB / Troponin-T:21//,
   Differential-Neuts:67.6 %, Lymph:18.1 %, Mono:7.0 %, Eos:6.6 %, Lactic
   Acid:0.8 mmol/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:10.2 mg/dL
   Fluid analysis / Other labs: Anti-GBM <3 (negative); TTG +
   Microbiology: [**10-7**] BAL- no new growth
   Assessment and Plan
   Patient is a 48 year old male with type 1 diabetes mellitus, ESRD on
   dialysiswho presents with bleeding during bronch done for persistent
   hemoptysis and worsening diffuse ground glass infiltrates.
   Hemoptysis: Dulefoys lesion:
   - s/p rigid bronch without e/o rebleeding
   - cont to trend HCT
   - Should patient re-bleed turn patient left side down, call IP and IR
   urgently
   - Extubate this morning
   - Per Cardiology ok to discontinue plavix and continue ASA only.  IP
   noted to restart in 72h after rigid bronch
   - CXR daily.
   - standing cough suppression.
   - IR and CT surgery aware of patient should IP team not be able to
   control bleeding.
   Ground Glass Opacities: These have worsened since previous CT in
   [**Month (only) 270**]. Differential  inculdes vasculitis, possibly goodpastures or
   wegeners given concurrent kidney disease. Also possible infectious, may
   be PCP (although no risk factors), viral possible, atypical, fungal.
   Also may be beginning of interstitial lung disease, hypersensitivity
   pneumonitis. Considering drug toxicity, but no known exposures to drugs
   known to cause pulm issues. Most likely in this patient given
   hemosiderin laiden macrophages and high wedges and hypertension is
   heart failure related interstitial process.
   - For vasculitic processes: ANCA negative, Anti-GBM negative, TTG
   POSITIVE.
   - RF , CRP, ESR: all elevated
   - No growth of culture data from BAL.
   - Will continue to treat hypertension and re-check CT scan after
   hemodynamically controlled for several weeks.
   - TTG pending for [**Male First Name (un) 1367**]-[**Location (un) 1296**] Syndrome
   Respiratory: Patient remains on PS, last gas demonstrates alkalosis,
   suspect patient is usually hypercarbic given obesity (and likely
   hypoventilation) and OSA, but with normal PCO2 and bicarb.
   - Keep intubated for now, will try pressure support this PM for plan to
   extubate after rigid bronch today.
   - Recheck gas, adjust as necessary
   HTN: Overall improved control.
   - Continue [**Last Name (un) 284**], Metoprolol, lisinopril, isorbide mononitrate-- switched
   to short acting, because long acting is not crushable. Nifedipine on
   hold as no appropriate short-acting (crushable) alternative is
   available.
   - PRN hydral as needed overnight has HTN will exacerbate bleed
   CAD: recent DES to RCA in [**5-5**].
   - Continue Atorvastatin 80mg, Zetia, Losartan, Metoprolol, nifedipine,
   isosorbide monitrate and lisinoprol.
   - Appreciate cardiology assistance: Stopping plavix in light of
   significant bleeding, continuing ASA 325 mg.
   DMI: Patient was recently hypoglycemic in setting of receiving full
   dose of NPH, renal failure, and NPO status. Interestingly, he
s a type
   1 diabetic and has been off Insulin for several days, but has not
   developed DKA and fingersticks remain low. TSH normal on recent check.
   No evidence of adrenal insufficiency.
   - Will start D5 and Insulin as needed
   - Advance diet once extubated and tolerating PO
   ESRD: MWF, appears euvolemic at present. Renal team is following,
   appreciate assistance. Will transfuse one unit of PRBCs as discussed
   above. Given evidence of hypervolemia on CXR and hyperkalemia, will
   need dialysis tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion, Comments: has been hypoglycemic
   Lines:
   Arterial Line - [**2140-10-7**] 05:25 PM
   18 Gauge - [**2140-10-11**] 01:19 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-10-13 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2140-10-12**] 09:00 AM
 ARTERIAL LINE - STOP [**2140-10-12**] 02:26 PM
   - Codeine stopped
   - received HD
   - [**Last Name (un) 294**] doc is [**First Name11 (Name Pattern1) 366**] [**Initials (NamePattern4) **]
[**Last Name (NamePattern4) **] who stopped by but didn
t offer recs
   - FS this am was 170.  No insulin at this time
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-13**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 87 (74 - 90) bpm
   BP: 145/56(77) {136/31(64) - 188/75(102)} mmHg
   RR: 18 (13 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,357 mL
                                                                    250 mL
   PO:
             TF:
   IVF:
                                                                  1,357 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  4,400 mL
                                                                      0 mL
   Urine:
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,043 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   284 K/uL
   8.4 g/dL
   184 mg/dL
   6.0 mg/dL
   23 mEq/L
   4.2 mEq/L
   30 mg/dL
   95 mEq/L
   134 mEq/L
   25.2 %
   7.1 K/uL
        [image002.jpg]
                            [**2140-10-8**]  10:04 PM
                            [**2140-10-9**]  04:14 AM
                            [**2140-10-9**]  04:40 PM
                            [**2140-10-10**]  04:12 AM
                            [**2140-10-10**]  04:24 AM
                            [**2140-10-11**]  04:26 AM
                            [**2140-10-11**]  03:15 PM
                            [**2140-10-12**]  03:28 AM
                            [**2140-10-12**]  03:40 AM
                            [**2140-10-13**]  05:02 AM
   WBC
   5.0
   4.9
   6.9
   7.3
   7.1
   Hct
   24.0
   25.5
   25.9
   23.7
   25.2
   Plt
   [**Telephone/Fax (3) 1449**]91
   284
   Cr
   7.5
   9.0
   6.9
   8.3
   6.0
   TCO2
   30
   25
   28
   26
   29
   Glucose
   86
   69
   76
   89
   184
   Other labs: PT / PTT / INR:13.6/34.7/1.2, CK / CKMB / Troponin-T:21//,
   Differential-Neuts:67.6 %, Lymph:18.1 %, Mono:7.0 %, Eos:6.6 %, Lactic
   Acid:0.8 mmol/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   Patient is a 48 year old male with type 1 diabetes mellitus, ESRD on
   dialysiswho presents with bleeding during bronch done for persistent
   hemoptysis and worsening diffuse ground glass infiltrates.
   Hemoptysis: Dulefoys lesion:
   - s/p rigid bronch without e/o rebleeding
   - Hct stable
   - breathing well after extubation
   - Plavix to be started tomorrow
   - Codeine discontinued as patient was coughing
   - IR and CT surgery aware of patient should IP team not be able to
   control bleeding.
   Ground Glass Opacities:
   Unclear causes but unlikely to be vasculitis given neg rheum w/u and
   neg anti-gbm though CRP and ESR were elevated. No known drug exposures.
   Considering [**Male First Name (un) **]-[**Location (un) **]  syndrome as TTG returned positive.  Heart
   failure is also a possibility.
   - Will continue to treat hypertension and re-check CT scan after
   hemodynamically controlled for several weeks.
   Respiratory: Extubated; monitor today
   HTN: Overall improved control.
   - Continue [**Last Name (un) 284**], Metoprolol, lisinopril, isorbide mononitrate-- switched
   to short acting, because long acting is not crushable. Nifedipine on
   hold as no appropriate short-acting (crushable) alternative is
   available.
   - PRN hydral as needed overnight has HTN will exacerbate bleed
   CAD: recent DES to RCA in [**5-5**].
   - Continue Atorvastatin 80mg, Zetia, Losartan, Metoprolol, nifedipine,
   isosorbide monitrate and lisinoprol.
   - Appreciate cardiology assistance: Stopping plavix in light of
   significant bleeding, continuing ASA 325 mg.
 restart plavix as above
   DMI: Patient was recently hypoglycemic in setting of receiving full
   dose of NPH, renal failure, and NPO status. Interestingly, he
s a type
   1 diabetic and has been off Insulin for several days, but has not
   developed DKA and fingersticks remain low. TSH normal on recent check.
   No evidence of adrenal insufficiency.
   - Will continue D5 and Insulin as needed
   - Advance diet once extubated and tolerating PO
   - Email [**Last Name (un) 294**] treaters
   ESRD: HD today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2140-10-11**] 01:19 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2140-10-13 07:58:00 Physician Resident Progress Note
Chief Complaint: ON events:
   Codeine for cough was stopped
   Received HD
   [**Last Name (un) 294**] physician is [**Name Initial (PRE) 1450**] who stopped by, no new recs
   FS this AM was 170, held on insulin
   Nurses concerned that he may be aspirating, will see how he does with
   breakfast
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2140-10-12**] 09:00 AM
 ARTERIAL LINE - STOP [**2140-10-12**] 02:26 PM
   History obtained from Patient
   Allergies:
   History obtained from PatientIodine; Iodine Containing
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-13**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 87 (74 - 90) bpm
   BP: 145/56(77) {136/31(64) - 188/75(102)} mmHg
   RR: 18 (13 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,357 mL
                                                                    250 mL
   PO:
             TF:
   IVF:
                                                                  1,357 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  4,400 mL
                                                                      0 mL
   Urine:
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,043 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   General: NAD, awake and alert
   HEENT: MMM. OP clear.
   Neck: No crepitus on exam.
   CV: Normal S1, S2 without any m/r/g.
   Pulm: Improved air movement on the left, otherwise no wheezes or
   crackles.
   Abd: Soft, NT/ND with normoactive BS.
   Ext: No c/c/e.
   Labs / Radiology
   284 K/uL
   8.4 g/dL
   184 mg/dL
   6.0 mg/dL
   23 mEq/L
   4.2 mEq/L
   30 mg/dL
   95 mEq/L
   134 mEq/L
   25.2 %
   7.1 K/uL
        [image002.jpg]
                            [**2140-10-8**]  10:04 PM
                            [**2140-10-9**]  04:14 AM
                            [**2140-10-9**]  04:40 PM
                            [**2140-10-10**]  04:12 AM
                            [**2140-10-10**]  04:24 AM
                            [**2140-10-11**]  04:26 AM
                            [**2140-10-11**]  03:15 PM
                            [**2140-10-12**]  03:28 AM
                            [**2140-10-12**]  03:40 AM
                            [**2140-10-13**]  05:02 AM
   WBC
   5.0
   4.9
   6.9
   7.3
   7.1
   Hct
   24.0
   25.5
   25.9
   23.7
   25.2
   Plt
   [**Telephone/Fax (3) 1449**]91
   284
   Cr
   7.5
   9.0
   6.9
   8.3
   6.0
   TCO2
   30
   25
   28
   26
   29
   Glucose
   86
   69
   76
   89
   184
   Other labs: PT / PTT / INR:13.6/34.7/1.2, CK / CKMB / Troponin-T:21//,
   Differential-Neuts:67.6 %, Lymph:18.1 %, Mono:7.0 %, Eos:6.6 %, Lactic
   Acid:0.8 mmol/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan:
   48 M with T1DM, ESRD on HD who p/w hemoptysis, now s/p recent rigid
   bronch for persistent hemoptysis and worsening diffuse ground glass
   infiltrates.
   Hemoptysis: Dulefoys lesion
   -          s/p rigid bronch without e/o rebleeding
   -          can now do daily HCT, has been stable
   -          if re-bleed, turn pt left side down and call IP and IR
   urgently
   -          continue ASA and restart Plavix 72H after bronch per cards
   -          CXR tomorrow given question of left-sided subcutaneous air,
   no evidence on exam
   Ground glass opacities:
   -          will need repeat CT in several weeks, w/u thus far has been
   negative, concern for possible celiac disease
   Respiratory:
   Oxygen stable on minimal amount of nasal cannula support, continue to
   wean
   HTN
   Continue home meds, once he can eat can increase PO doses and add back
   nifedipine
   PRN hydralazine IV while NPO
   CAD recent DES to RCA in [**5-5**]
   -          continue home meds, re-start Plavix 72H after bronch
   T1DM
   Has been hypoglycemia, has not needed insulin, will monitor for now, no
   acute indication for insulin gtt at this time, continue Q2H
   fingersticks, watch gap for evidence of DKA
   ESRD: HD yesterday
   Dispo: c/o to floor if blood glucose stable
   ICU Care
   Nutrition: S/S today, NPO until evaluation
   Glycemic Control:
   Lines:
   18 Gauge - [**2140-10-11**] 01:19 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2140-10-14 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Awaiting Bed
   Allergies:
   Iodine; Iodine Containing
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2140-10-13**] 02:42 PM
   Heparin Sodium (Prophylaxis) - [**2140-10-13**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-14**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.4
   HR: 76 (68 - 91) bpm
   BP: 149/59(82) {125/48(70) - 178/92(99)} mmHg
   RR: 16 (10 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                    449 mL
                  PO:
                  TF:
   IVF:
                                                                    449 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    200 mL
   Urine:
   200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    449 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   284 K/uL
   8.4 g/dL
   130 mg/dL
   7.3 mg/dL
   27 mEq/L
   4.2 mEq/L
   39 mg/dL
   95 mEq/L
   134 mEq/L
   25.2 %
   7.1 K/uL
        [image002.jpg]
                            [**2140-10-9**]  04:14 AM
                            [**2140-10-9**]  04:40 PM
                            [**2140-10-10**]  04:12 AM
                            [**2140-10-10**]  04:24 AM
                            [**2140-10-11**]  04:26 AM
                            [**2140-10-11**]  03:15 PM
                            [**2140-10-12**]  03:28 AM
                            [**2140-10-12**]  03:40 AM
                            [**2140-10-13**]  05:02 AM
                            [**2140-10-13**]  06:10 PM
   WBC
   5.0
   4.9
   6.9
   7.3
   7.1
   Hct
   24.0
   25.5
   25.9
   23.7
   25.2
   Plt
   [**Telephone/Fax (3) 1449**]91
   284
   Cr
   7.5
   9.0
   6.9
   8.3
   6.0
   7.3
   TCO2
   25
   28
   26
   29
   Glucose
   86
   69
   76
   89
   184
   130
   Other labs: PT / PTT / INR:13.6/34.7/1.2, CK / CKMB / Troponin-T:21//,
   Differential-Neuts:67.6 %, Lymph:18.1 %, Mono:7.0 %, Eos:6.6 %, Lactic
   Acid:0.8 mmol/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:6.5 mg/dL
   Fluid analysis / Other labs: Acetone:Trace
   Imaging: CXR:
   CXR: Yesterday:
   Left lower lobe has re-expanded following bronchoscopy.
   Endotracheal tube and nasogastric tube have been removed. Linear
   lucency overlies the lower left neck and proximal left clavicle, and
   may reflect
   subcutaneous emphysema, but small amount of pneumomediastinum is not
   excluded.
   Cardiac silhouette remains enlarged, and pulmonary vascularity is
   engorged,
   but there is no overt pulmonary edema.
   Microbiology: No new changes
   Assessment and Plan
   48 M with T1DM, ESRD on HD who p/w hemoptysis, now s/p recent rigid
   bronch for persistent hemoptysis and worsening diffuse ground glass
   infiltrates.
   Hemoptysis: Dulefoys lesion
   -          s/p rigid bronch without e/o rebleeding
   -          can now do daily HCT, has been stable
   -          if re-bleed, turn pt left side down and call IP and IR
   urgently
   -          Plan to restart clopidogrel today, continue aspirin.
   -          Awaiting repeat CXR for today for ? subcut air
   Ground glass opacities:
   -          will need repeat CT in several weeks, w/u thus far has been
   negative, concern for possible celiac disease
   Respiratory:
   Oxygen stable on minimal amount of nasal cannula support, continue to
   wean
   HTN
   Continue home meds, once he can eat can increase PO doses and add back
   nifedipine
   PRN hydralazine IV while NPO
   CAD recent DES to RCA in [**5-5**]
   -          continue home meds, re-start Plavix today
   T1DM
   Has been hypoglycemia, has not needed insulin, will monitor for now, no
   acute indication for insulin gtt at this time, continue Q2H
   fingersticks, watch gap for evidence of DKA. Lab shows trace acetone.
   ESRD: HD Today
   Dispo: c/o to floor , bed assigned.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2140-10-11**] 01:19 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: